US07728150B2
3-(1-Ethyl-5-fluoro-indan-1-yl)-7-methoxy-1H-indole
Utilizing 1-ethyl-5-fluoro-indan-1-ol and 7-methoxyindole, the title compound is prepared as in example 1. 123 mg (59%). LC-MS m/z 310.2 (M++1).

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | 7-methoxyindole | COC=1C=CC=C2C=CNC12 | C9H9NO
product | 3-(1-Ethyl-5-fluoro-indan-1-yl)-7-methoxy-1H-indole | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)OC | C20H20FNO
